US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-N′-(2-methoxyethyl)ethane-1,2-diamine
The title compound was prepared in analogy to Example 3-1 1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and N-(2-methoxyethyl)ethane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 455, 1H NMR (400 MHz, CD3OD) δ ppm 8.06-8.04 (d, J=7.6 Hz, 1 H), 7.88-7.86 (m, 2 H), 7.73-7.70 (m, 2 H), 7.59-7.56 (m, 2 H), 6.01 (s, 1 H), 5.33 (s, 2 H), 4.55 (s, 2 H), 3.88-3.78 (m, 2 H), 3.72 (s, 2 H), 3.67-3.65 (t, J=4.8 Hz, 2 H), 3.45-3.42 (t, J=6 Hz, 2 H), 3.38 (s, 3 H), 3.30-3.28 (m, 2 H), 2.45 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | N-(2-methoxyethyl)ethane-1,2-diamine | COCCNCCN | C5H14N2O
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-N′-(2-methoxyethyl)ethane-1,2-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCNCCOC)C)=O | C24H30N4O3S
